US06552196B2
1-benzyl-4-methanesulfonyloxymethyl-4-hydroxymethyl-pyrrolidine-3-one-O-methyloxime 50 g of 1-benzyl-4-ethoxycarbonyl-pyrrolidine-3-one was dissolved in 300ml of isopropanol and thereto 4 ml of 10% NaOH and 20.7 ml of formalin were added successively. The mixture was stirred for 30 minutes at room temperature and concentrated under the reduced pressure. 200 ml of water was added to the concentrated residue. The resulting solution was extracted twice with each 200 ml of ethylether, dried with magnesium sulfate, filtered and concentrated under the reduce pressure to give 46 g of 1-benzyl-4-hydroxymethyl-4-ethoxycarbonyl-pyrroline-3-one(yield : 82.0%). The obtained compound was dissolved in 400 ml of pyridine and thereto methoxylamine hydrochloride was added and stirred for 1 hour at room temperature. The reaction mixture was concentrated under the reduced pressure, diluted with 400 ml of dichloromethane, washed with water and saline solution, dried with magnesium sulfate, filtered and concentrated under the reduced pressure to give 43 g of 1-benzyl-4-hydroxymethyl-4-ethoxycarbonyl-pyrroline-3-one-O-methyloxime (yield: 84.6%). Thus obtained compound was dissolved in a solution of 22 ml of triethylamine and 400 ml of dichloromethane and cooled to 0-5° C. and thereto 10 ml of methanesulfonylchloride was added dropwise and the reaction temperature was slowly increased up to room temperature. The reaction mixture was stirred for 1 hour, washed with water and saline solution, dried with magnesium sulfate, filtered and concentrated under the reduced pressure to give 50 g of 1-benzyl-4-methanesulfonyloxymethyl-4-ethoxycarbonyl-pyrroline-3-one-O-methyloxime (yield : 92.6%). It was dissolved in 200 ml of tetrahydrofuran and thereto 13 g of sodium borohydride and 400 ml of ethyl alcohol were added successively at room temperature and 11 g of lithium chloride was added slowly. The reaction mixture was stirred for 5 hours and poured into 300 ml of ice water. The resulting solution was adjusted to pH 5-6 with diluted hydrochloric acid, concentrated under the reduced pressure to remove most organic solvents therefrom, then extracted twice with each 200 ml of ethylether, dried with magnesium sulfate, filtered and concentrated under the reduced pressure. The residue was purified by silicagel column chromatography(ethylacetate:normal hexane=2:1) to give 42 g of the titled liquid compound (yield: 94.3%).

reactant | 1-benzyl-4-methanesulfonyloxymethyl-4-hydroxymethyl-pyrrolidine-3-one-O-methyloxime | 50 g | CON=C1CN(CC1(CO)COS(=O)(=O)C)CC1=CC=CC=C1 | C15H22N2O5S
reactant | 1-benzyl-4-ethoxycarbonyl-pyrrolidine-3-one | C(C1=CC=CC=C1)N1CC(C(C1)C(=O)OCC)=O | C14H17NO3
reactant | NaOH | 4 ml | [OH-].[Na+]
reactant | formalin | 20.7 ml | C=O | CH2O
solvent | isopropanol | 300ml | C(C)(C)O | C3H8O
product | 1-benzyl-4-hydroxymethyl-4-ethoxycarbonyl-pyrroline-3-one | 46 g, 82.0% | C(C1=CC=CC=C1)N1CC(C(C1)(C(=O)OCC)CO)=O | C15H19NO4
